US06528525B1
(c) (R)-4-benzyl-3-[(2R,3S)-3-hydroxy-3-(4-hydroxyphenyl)-2-(4-isopropyl-phenoxy)propionyl]oxazolidine-2-one
In a similar manner to that described in Reference example 1(d), a reaction was carried out using (R)-4-benzyl-3-[(2R,3S)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one (9.00 g), which is the product of Reference example 30(b) and palladium on carbon (5%, 1.80 g) and the reaction mixture was treated to afford the desired compound (7.48 g) as a mass of foam.

reactant | (R)-4-benzyl-3-[(2R,3S)-3-(4-benzyloxyphenyl)-3-hydroxy-2-(4-isopropylphenoxy)propionyl]oxazolidine-2-one | 9.00 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@@H](O)C1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=C(C=C1)C(C)C)=O | C35H35NO6
catalyst | palladium on carbon | 1.80 g | [Pd] | Pd
product | (R)-4-benzyl-3-[(2R,3S)-3-hydroxy-3-(4-hydroxyphenyl)-2-(4-isopropyl-phenoxy)propionyl]oxazolidine-2-one | 7.48 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@H](C1=CC=C(C=C1)O)O)OC1=CC=C(C=C1)C(C)C)=O | C28H29NO6
